US07425580B2
2-[(2-Methoxyphenyl)(1-naphthyl)methyl]malononitrile
A flask was charged with (1-naphthalenylmethylene)-propanedinitrile (408 mg, 2 mmol) and 10 mL anhydrous tetrahydrofuran. To this stirred solution was added, at room temperature, 2-methoxy phenyl magnesium bromide (2.4 mL, 2.4 mmol, 1 M in tetrahydrofuran). The reaction was stirred 1.5 hours, after which it was quenched with 1 N hydrochloric acid and taken up in ethyl acetate. The organic layer was washed with saturated aqueous sodium bicarbonate, brine, dried over magnesium sulfate, filtered, and evaporated to dryness. Following purification on silica (20% ethyl acetate/hexanes) 551 mg product was isolated as an off white foam.

reactant | (1-naphthalenylmethylene)-propanedinitrile | 2 mmol, 408 mg | C1(=CC=CC2=CC=CC=C12)C=C(C#N)C#N | C14H8N2
reactant | 2-methoxy phenyl magnesium bromide | 2.4 mmol, 1 M, 2.4 mL | COC1=C(C=CC=C1)[Mg]Br
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
product | 2-[(2-Methoxyphenyl)(1-naphthyl)methyl]malononitrile | COC1=C(C=CC=C1)C(C(C#N)C#N)C1=CC=CC2=CC=CC=C12 | C21H16N2O
